US08080566B1
A 50-mL round-bottom flask was charged with tert-butyl 1-((9-(3-(dimethylamino)propyl)-9H-carbazol-3-yl)methyl)piperidin-3-ylcarbamate (200 mg, 0.43 mmol, 1.00 equiv) and conc. HCl (1 mL) in 1,4-dioxane (3 mL). The resulting mixture was stirred at room temperature for 1 hour. Upon completion, the resulting mixture was concentrated on a rotary evaporator to give the crude that was re-crystallized from 1:1 CH3OH/ether affording 1-((9-(3-(dimethylamino)propyl)-9H-carbazol-3-yl)methyl)piperidin-3-amine dihydrochloride yellow solid (0.2 g, 98%). LCMS: [M+H]+: 365. 1H NMR (D2O, 300 MHz) δ 8.08-8.05 (m, 2H), 7.53-7.44 (m, 4H), 7.28-7.23 (m, 1H), 4.47 (br, 2H), 4.31 (t, 2H), 3.73 (br, 1H), 3.55-3.47 (m, 2H), 3.06-2.90 (m, 4H), 2.64 (s, 6H), 2.22-2.13 (m, 3H), 2.05-2.00 (m, 1H), 1.67-1.54 (m, 2H).

reactant | tert-butyl 1-((9-(3-(dimethylamino)propyl)-9H-carbazol-3-yl)methyl)piperidin-3-ylcarbamate | 0.43 mmol, 200 mg, 1.00 equiv | CN(CCCN1C2=CC=CC=C2C=2C=C(C=CC12)CN1CC(CCC1)NC(OC(C)(C)C)=O)C | C28H40N4O2
reactant | HCl | 1 mL | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 1-((9-(3-(dimethylamino)propyl)-9H-carbazol-3-yl)methyl)piperidin-3-amine dihydrochloride | 0.2 g, 98% | Cl.Cl.CN(CCCN1C2=CC=CC=C2C=2C=C(C=CC12)CN1CC(CCC1)N)C | InChI=1S/C23H32N4.2ClH/c1-25(2)12-6-14-27-22-9-4-3-8-20(22)21-15-18(10-11-23(21)27)16-26-13-5-7-19(24)17-26;;/h3-4,8-11,15,19H,5-7,12-14,16-17,24H2,1-2H3;2*1H
